US08039455B2
c) 5-Allyloxy-N,N-dimethyl-isophthalamic acid
To a solution of 2 g (7.6 mmol) of 5-allyloxy-N,N-dimethyl-isophthalamic acid methyl ester in 16.8 ml of THF/MeOH (1:1) 8.4 ml of 1 M KOH (1.1 eq.) are added at 0° C. The mixture is stirred at rt for 3 h. The organic solvents are removed under reduced pressure, and the aqueous phase is acidified with HCl to pH 2 and extracted with DCM/EtOH (80:20) (2×38 ml). The combined organic layers are washed with 8 ml of water, dried over sodium sulfate and evaporated to give the product in the form of a colorless solid (m.p.: 93-95° C.).

reactant | 5-allyloxy-N,N-dimethyl-isophthalamic acid methyl ester | 7.6 mmol, 2 g | COC(C1=CC(C(=O)N(C)C)=CC(=C1)OCC=C)=O | C14H17NO4
reactant | KOH | 1 M, 1.1 eq. | [OH-].[K+]
solvent | THF MeOH | 16.8 ml | C1CCOC1.CO
product | 5-Allyloxy-N,N-dimethyl-isophthalamic acid | C(C=C)OC=1C=C(C=C(C(=O)O)C1)C(=O)N(C)C | C13H15NO4
